US04012524
2-Phenyl-2-methyl-5-methoxy-6,7-dichloro-1-indanone (4.94 g., 0.015 mole) is mixed with pyridine hydrochloride (50 g.) and the mixture is heated at 175° C. for 1 hour, then poured into water (500 ml.) and the product is collected and crystallized from ethanol:water, 2:1 to obtain 2-phenyl-2-methyl-5-hydroxy-6,7-dichloro-1-indanone, m.p. 194°-6° C.

reactant | 2-Phenyl-2-methyl-5-methoxy-6,7-dichloro-1-indanone | 0.015 mole, 4.94 g | C1(=CC=CC=C1)C1(C(C2=C(C(=C(C=C2C1)OC)Cl)Cl)=O)C | C17H14Cl2O2
reactant | pyridine hydrochloride | 50 g | Cl.N1=CC=CC=C1
solvent | water | 500 ml | O | H2O
product | 2-phenyl-2-methyl-5-hydroxy-6,7-dichloro-1-indanone | C1(=CC=CC=C1)C1(C(C2=C(C(=C(C=C2C1)O)Cl)Cl)=O)C | C16H12Cl2O2
